US07470679B2
Methyl 2-amino-3-chlorobenzoate
Iron powder (1.94 g, 34.8 mmol) was added to the solution of methyl 3-chloro-2-nitrobenzoate (2.5 g, 11.6 mmol) in EtOH/HOAc (100 mL/100 mL) at room temperature, and then the suspension was refluxed under N2 for 2 hrs. After cooling down to room temperature, partial of the solvents was removed on rotary vacuum, the resulting residue was partitioned between H2O/EtOAc (200 mL/300 mL). The separated organic phase was washed with aqueous NaOH (1N, 50 mL), brine (50 mL), dried over MgSO4, and concentrated on rotary vacuum to afford the expected product as a tan oil (1.7 g, 79% yield) which became wax type solid standing on bench. The crude product was pure enough to be used in next step without further purification; 1H NMR (400 MHz, CDCl3) δppm 3.86 (s, 3H), 6.25 (s, 2H), 6.57 (t, J=7.93 Hz, 1H), 7.39 (dd, J=7.81, 1.51 Hz, 1H), 7.79 (dd, J=8.06, 1.51 Hz, 1H); Mass spec. 185.95 (MH+), Calc. for C8H8ClNO2 185.02.

reactant | methyl 3-chloro-2-nitrobenzoate | 11.6 mmol, 2.5 g | ClC=1C(=C(C(=O)OC)C=CC1)[N+](=O)[O-] | C8H6ClNO4
solvent | EtOH HOAc | 100 mL | CCO.CC(=O)O
catalyst | Iron | 34.8 mmol, 1.94 g | [Fe] | Fe
product | Methyl 2-amino-3-chlorobenzoate | 1.7 g, 79% yield | NC1=C(C(=O)OC)C=CC=C1Cl | C8H8ClNO2
